subckt sky130_fd_pr__cap_vpp_11p5x11p7_l1m1m2m3m4_shieldpom5 (c0 c1 b m5)
parameters mult=1.0 ctot_a=141.23e-15 * sky130_fd_pr__cap_vpp_11p5x11p7_l1m1m2m3m4_shieldpom5__cor + 1.5 * 0.00244 / sqrt(mult / 0.21936) * 141.23e-15 * sky130_fd_pr__cap_vpp_11p5x11p7_l1m1m2m3m4_shieldpom5__cor * mc_mm_switch * 0 cm5_c0=5.11e-15 * c0m5m4_vpp cm5_c1=3.89e-15 * c1m5m4_vpp cpl2s=(18.06e-15 - 2.14e-15) * cpl2s_vpp rat_m4=0.1120 rat_m3=0.1120 rat_m2=0.2836 rat_m1=0.2801 rat_li=0.1863 rat_li2p=0.026 cap_m4=rat_m4 * ctot_a cap_m3=rat_m3 * ctot_a cap_m2=rat_m2 * ctot_a cap_m1=rat_m1 * ctot_a cap_li=rat_li * ctot_a cap_li2p=rat_li2p * ctot_a ll1=5.070 lm1=5.215 lm2=5.095 lm3=5.050 lm4=4.910 wl1=0.170 wm1=0.140 wm2=0.140 wm3=0.300 wm4=0.300 nfl1=62.0 nfm1=72.0 nfm2=72.0 nfm3=34.0 nfm4=34.0 nvia3_c0=103.0 nvia3_c1=49.0 nvia2_c0=104.0 nvia2_c1=49.0 nvia_c0=124.0 nvia_c1=62.0 ncon_c0=116.0 ncon_c1=28.0 nlicon=126.0
ccmvpp11p5x11p7_polym5shield (m5 a0) capacitor c=cm5_c0
cm5_1 (m5 a1) capacitor c=cm5_c1
rsm4 (a0 a2) resistor r=rm4 * lm4 / wm4 * (1 / 3) * (1 / nfm4)
cm4 (a2 a1) capacitor c=cap_m4
rvia3_0 (a0 b0) resistor r=rcvia3 / nvia3_c0
rvia3_1 (a1 b1) resistor r=rcvia3 / nvia3_c1
rsm3 (b0 b2) resistor r=rm3 * lm3 / wm3 * (1 / 3) * (1 / nfm3)
cm3 (b2 b1) capacitor c=cap_m3
rvia2_0 (b0 c0) resistor r=rcvia2 / nvia2_c0
rvia2_1 (b1 c1) resistor r=rcvia2 / nvia2_c1
rsm2 (c0 c2) resistor r=rm2 * lm2 / wm2 * (1 / 3) * (1 / nfm2)
cm2 (c2 c1) capacitor c=cap_m2
rvia_0 (c0 d0) resistor r=rcvia / nvia_c0
rvia_1 (c1 d1) resistor r=rcvia / nvia_c1
rsm1 (d0 d2) resistor r=rm1 * lm1 / wm1 * (1 / 3) * (1 / nfm1)
cm1 (d2 d1) capacitor c=cap_m1
rcon1 (d0 e0) resistor r=rcl1 / ncon_c0
rcon2 (d1 e1) resistor r=rcl1 / ncon_c1
rli1 (e0 e2) resistor r=rl1 * ll1 / wl1 * (1 / 3) * (1 / nfl1)
cli (e2 e1) capacitor c=cap_li
rlicon (e0 f0) resistor r=rcp1 / nlicon
rpoly (f0 f2) resistor r=rp1
cl12p (e1 f2) capacitor c=cap_li2p
cpl2b (f0 b) capacitor c=cpl2s
ends // sky130_fd_pr__cap_vpp_11p5x11p7_l1m1m2m3m4_shieldpom5
