subckt sky130_fd_pr__cap_vpp_04p4x04p6_m1m2_noshield (c0 c1 b)
parameters mult=1 presim_flag=0.0 lvpp=1.585 wm1=0.14 wm2=0.14 ctot_a=7.81e-15 * sky130_fd_pr__cap_vpp_04p4x04p6_m1m2m3_shieldl1__cor + 0.0283 / sqrt(4.4 * 4.6 * 2 * mult) * 7.81e-15 * sky130_fd_pr__cap_vpp_04p4x04p6_m1m2m3_shieldl1__cor * mc_mm_switch * 0 rat_m2=0.5767 rat_m1=0.4233 cap_m2=rat_m2 * ctot_a cap_m1=rat_m1 * ctot_a caps_c0=(1.02 + presim_flag * 0.22) * 1e-15 * cli2s_vpp caps_c1=0.39e-15 * cli2s_vpp nvia_c0=40.0 nvia_c1=18.0 nf=16.0
rm21 (c0 a1) resistor r=2 * rm2 * lvpp / wm2 * (1 / 3) * (1 / nf)
ccmvpp4p4x4p6_m1m2 (a1 c1) capacitor c=cap_m2
rvia1 (c0 d0) resistor r=rcvia / nvia_c0
rvia2 (c1 d1) resistor r=rcvia / nvia_c1
rm11 (d0 b1) resistor r=2 * rm1 * lvpp / wm1 * (1 / 3) * (1 / nf)
cm1 (b1 d1) capacitor c=cap_m1
csli1 (d0 b) capacitor c=caps_c0
csli2 (d1 b) capacitor c=caps_c1
ends // sky130_fd_pr__cap_vpp_04p4x04p6_m1m2_noshield
