subckt sky130_fd_pr__cap_vpp_04p4x04p6_m1m2_noshield_o2 (c0 c1 b)
parameters mult=1 presim_flag=0.0 lvpp=3.81 wm1=0.14 wm2=0.14 ctot_a=9.48e-15 * cvpp4_cor + 0.0283 / sqrt(4.38 * 4.592 * 2 * mult) * 9.48e-15 * cvpp4_cor * mc_mm_switch * 0 rat_m2=0.5767 rat_m1=0.4233 cap_m2=rat_m2 * ctot_a cap_m1=rat_m1 * ctot_a caps_m1=(0.72 + presim_flag * 0.10) * 1e-15 * cli2s_vpp nvia=25.0 nf=7.0
rm21 (c0 a1) resistor r=2 * rm2 * lvpp / wm2 * (1 / 3) * (1 / nf)
ccmvpp4 (a1 c1) capacitor c=cap_m2
rvia1 (c0 d0) resistor r=rcvia / nvia
rvia2 (c1 d1) resistor r=rcvia / nvia
rm11 (d0 b1) resistor r=2 * rm1 * lvpp / wm1 * (1 / 3) * (1 / nf)
cm1 (b1 d1) capacitor c=cap_m1
csli1 (d0 b) capacitor c=caps_m1
csli2 (d1 b) capacitor c=caps_m1
ends // sky130_fd_pr__cap_vpp_04p4x04p6_m1m2_noshield_o2
