parameters sky130_fd_pr__cap_vpp_04p4x04p6_m1m2_shieldl1__slope=0.0
subckt sky130_fd_pr__cap_vpp_04p4x04p6_m1m2_shieldl1 (c0 c1 b)
parameters mult=1.0 ctot_a=8.450e-15 * sky130_fd_pr__cap_vpp_04p4x04p6_m1m2_shieldl1__cor + 0.88861 / sqrt(mult / 0.463538) * mc_mm_switch * 0 * 8.450e-15 * sky130_fd_pr__cap_vpp_04p4x04p6_m1m2_shieldl1__cor cli2s=1.864e-15 * cli2s_vpp rat_m2=0.552 rat_m1=0.395 rat_m12li=0.053 cap_m2=rat_m2 * ctot_a cap_m1=rat_m1 * ctot_a cap_m12li=rat_m12li * ctot_a lm2=1.585 wm2=0.140 nfm2=24.0 nvia_c0=40.0 nvia_c1=18.0 lm1=1.665 wm1=0.140 nfm1=20.0 nmcon=42.0
rm21 (c0 a1) resistor r=rm2 * lm2 / wm2 * (1 / 3) * (1 / nfm2)
ccmvpp4p4x4p6_lishield (a1 c1) capacitor c=cap_m2
rvia1 (c0 d0) resistor r=rcvia / nvia_c0
rvia2 (c1 d1) resistor r=rcvia / nvia_c1
rm11 (d0 b1) resistor r=rm1 * lm1 / wm1 * (1 / 3) * (1 / nfm1)
cm1 (b1 d1) capacitor c=cap_m1
rmcon (d0 e0) resistor r=rcl1 / nmcon
rliw (e0 f0) resistor r=rl1
cli2b (f0 b) capacitor c=cli2s
cm12li (d1 f0) capacitor c=cap_m12li
ends // sky130_fd_pr__cap_vpp_04p4x04p6_m1m2_shieldl1
